US05277838
A solution of 19.9 g (0.100 mol) of p-dimethylsilylbenzoyl chloride and 12.4 g (0.100 mol) of a p-methoxyphenol in 40 ml of dry toluene was boiled for 15 hours. The completeness of the reaction was checked by thin-layer chromatography. After the solvent had been stripped off in vacuo on a rotary evaporator, the crude product was recrystallized from n-hexane, to give p-methoxyphenyl 4-dimethylsilylbenzoate, melting point 67° C.

reactant | p-dimethylsilylbenzoyl chloride | 0.100 mol, 19.9 g | C[SiH](C1=CC=C(C(=O)Cl)C=C1)C | C9H11ClOSi
reactant | p-methoxyphenol | 0.100 mol, 12.4 g | COC1=CC=C(C=C1)O | C7H8O2
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | p-methoxyphenyl 4-dimethylsilylbenzoate | C[SiH](C1=CC=C(C(=O)OC2=CC=C(C=C2)OC)C=C1)C | C16H18O3Si
